US06310099B1
A mixture of 25 g (0.11 mol) N-(2′-chloro-6′-fluorophenyl)-4-methylaniline and 40 ml (0.5 mol) of chloroacetylchloride is heated under a nitrogen atmosphere for 15 minutes at 60°. The solvent is evaporated under reduced pressure to give an oil which is dissolved in 25 ml of ethyl acetate. Pentane (250 ml) is added dropwise over 15 minutes to precipitate the product. The mixture is cooled to −15° C. and the solid is filtered and washed with pentane to give N-(2′-chloro-6′-fluorophenyl)-N-chloroacetyl-4-methylaniline, m.p. 80-83°.

reactant | N-(2′-chloro-6′-fluorophenyl)-4-methylaniline | 0.11 mol, 25 g | ClC1=C(C(=CC=C1)F)NC1=CC=C(C=C1)C | C13H11ClFN
reactant | chloroacetylchloride | 0.5 mol, 40 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | Pentane | 250 ml | CCCCC | C5H12
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | N-(2′-chloro-6′-fluorophenyl)-N-chloroacetyl-4-methylaniline | ClC1=C(C(=CC=C1)F)N(C1=CC=C(C=C1)C)C(CCl)=O | C15H12Cl2FNO
